US06949542B2
(4-Fluoro-2-nitro-phenyl)-carbamic acid tert-butyl ester was prepared via the di-Boc-compound from commercially available 4-fluoro-2-nitroaniline [CAS-No. 364-78-3] (20 g, 128 mmol) and Boc2O (57.32 g, 263 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (32.81 g, 99%).

reactant | 4-fluoro-2-nitroaniline | 128 mmol, 20 g | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | Boc2O | 263 mmol, 57.32 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-Fluoro-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C11H13FN2O4
